### PR TITLE
More logic

### PR DESCRIPTION
**Pull request by fredrik-bakke**
Pulls logic additions from #1264.

### CODE REVIEW

File: src/foundation/double-negation-images.lagda.md [hunk 1]
```diff
@@ -0,0 +1,322 @@
...
+open import logic.double-negation-stable-embeddings
+```
+
+</details>
+
+## Idea
+
+The
+{{#concept "double negation image" Disambiguation="of a map" Agda=double-negation-im}}
+of `f : A → B` is the essentially unique type that factorizes `f` as a
```
Comment (VojtechStep) [inline src/foundation/double-negation-images.lagda.md:46]: You write about an essentially unique type, but I see no reference to uniqueness (or universal properties) in this file. Honestly this paragraph is pretty cryptic, and I find it hard to believe it's at all understandable to many people outside Martín's sphere of influence 😅. Would you mind rephrasing it, and at least drawing a diagram?

File: src/foundation/inequality-booleans.lagda.md [hunk 2]
```diff
@@ -0,0 +1,226 @@
...
+The
+{{#concept "standard inequality relation" Disambiguation="on booleans" Agda=}}
+on [booleans](foundation.booleans.md) is the inductively defined
+[relation](foundation.binary-relations.md) given by the four inequalities
+
+```text
+  false ≤ false
+  false ≤ true
+  true ≤ true
+  true ≰ false.
```
Comment (VojtechStep) [inline src/foundation/inequality-booleans.lagda.md:43]: Why would a non-inequality be a generator of an inductive relation? And since the relation is not literally given by the inequalities, wouldn't it be better to write what it actually is defined as, and then note an alternative way of looking at it? I think I noticed this trend of the prose and Agda matching only up to (sometimes unproven) equivalence

File: src/foundation/inequality-booleans.lagda.md [hunk 3]
```diff
@@ -0,0 +1,226 @@
...
+open import order-theory.preorders
+open import order-theory.total-orders
+```
+
+</details>
+
+## Idea
+
+The
+{{#concept "standard inequality relation" Disambiguation="on booleans" Agda=}}
```
Comment (VojtechStep) [inline src/foundation/inequality-booleans.lagda.md:35]: Incomplete `Agda=`

File: src/foundation/inequality-booleans.lagda.md [hunk 4]
```diff
@@ -0,0 +1,226 @@
...
+leq-left-or-bool : {x y : bool} → leq-bool x y → leq-bool (or-bool x y) y
+leq-left-or-bool {true} {true} p = star
+leq-left-or-bool {false} {true} p = star
+leq-left-or-bool {false} {false} p = star
+
+leq-right-or-bool : {x y : bool} → leq-bool x y → leq-bool (or-bool y x) y
+leq-right-or-bool {x} {true} p = star
+leq-right-or-bool {false} {false} p = star
+
+leq-or-bool'' :
```
Comment (VojtechStep) [inline src/foundation/inequality-booleans.lagda.md:177]: These should have better names, but I'm currently too tired to come up with any

**Review by VojtechStep — COMMENTED** [review]
I managed to go through the first half of files, hopefully to be continued some time next week

File: src/foundation/decidable-dependent-function-types.lagda.md [hunk 5]
```diff
@@ -46,6 +52,28 @@ is-decidable-Π-uniformly-decidable-family (inl a) (inr b) =
   inr (λ f → b a (f a))
 is-decidable-Π-uniformly-decidable-family (inr na) _ =
   inl (ex-falso ∘ na)
+
+is-decidable-prop-Π-uniformly-decidable-family :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-dependent-function-types.lagda.md:56]: no, thanks for pointing it out

File: src/foundation/decidable-dependent-function-types.lagda.md [hunk 6]
```diff
@@ -76,6 +104,53 @@ is-decidable-Π-Maybe {B = B} du de =
     ( is-decidable-product du de)
 ```
 
+### Dependent products of decidable propositions over a base with mere equality are decidable propositions
+
+Assuming the base `A` is empty or 0-connected, a dependent product of decidable
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-dependent-function-types.lagda.md:109]: The two are equivalent, but that equivalence has not been formalized. I'll add an explanation

File: src/foundation/decidable-maps.lagda.md [hunk 7]
```diff
@@ -81,14 +83,13 @@ module _
...
 ```agda
-abstract
-  is-decidable-map-htpy :
-    {l1 l2 : Level} {A : UU l1} {B : UU l2} {f g : A → B} →
-    f ~ g → is-decidable-map g → is-decidable-map f
-  is-decidable-map-htpy H K b =
-    is-decidable-equiv
-      ( equiv-tot (λ a → equiv-concat (inv (H a)) b))
-      ( K b)
+is-decidable-map-htpy :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-maps.lagda.md:86]: I suppose I unabstracted it because it computes nicely. If you prefer it, I can make it `opaque` instead?

File: src/foundation/decidable-maps.lagda.md [hunk 8]
```diff
@@ -279,3 +280,32 @@ module _
...
+  is-decidable-map f → ε-operator-map f
+ε-operator-map-is-decidable-map F = ε-operator-is-decidable ∘ F
+```
+
+### Decidable injective maps are embeddings
+
+**Proof.** Given a decidable map `f : A → B` then `f` decomposes
+`B ≃ (im f) + B∖(im f)`. Restricting to `im f` we have a section given by the
+Hilbert ε-operator on `f`. Now, by injectivity of `f` we know this restriction
+map is an equivalence. Hence, by 3-for-2 `f` is also an embedding.
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-maps.lagda.md:298]: I'll add a diagram. 3-for-2 here is meant in the extended sense that 2 maps in a triangle are embeddings, and they are configured such that we may conclude the third is also an embedding. I'll rewrite

File: src/foundation/decidable-maps.lagda.md [hunk 9]
```diff
@@ -279,3 +280,32 @@ module _
...
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} {f : A → B}
+  where
+
+  is-emb-is-injective-is-decidable-map :
+    is-decidable-map f → is-injective f → is-emb f
+  is-emb-is-injective-is-decidable-map H K =
+    is-emb-is-injective-ε-operator-map (ε-operator-map-is-decidable-map H) K
+```
+
+There is also an analogous proof using the double negation image.
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-maps.lagda.md:311]: I couldn't formalize the thing here because of cyclic dependencies. The analogous proof may be preferred since it avoids propositional truncations. I'll update the prose

File: src/foundation/decidable-type-families.lagda.md [hunk 10]
```diff
@@ -0,0 +1,166 @@
...
+```agda
+decidable-family-decidable-subtype :
+  {l1 l2 : Level} {A : UU l1} → decidable-subtype l2 A → decidable-family l2 A
+decidable-family-decidable-subtype P =
+  ( is-in-decidable-subtype P , is-decidable-decidable-subtype P)
+```
+
+## Properties
+
+### Reindexing decidable type families
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-type-families.lagda.md:73]: base change?

File: src/foundation/decidable-type-families.lagda.md [hunk 11]
```diff
@@ -0,0 +1,166 @@
...
+  neg-decidable-family : decidable-family l2 A
+  neg-decidable-family =
+    ( ¬_ ∘ family-decidable-family P , is-decidable-neg-decidable-family)
+```
+
+### Composition of decidable families
+
+Given a decidable family of types with double negation dense equality
+`P : A → 𝒰` and a decidable type family `Q : (x : A) → P x → 𝒰` then we may
+_compose_ `Q` after `P` and obtain a decidabe type family `Q ∘ P : A → 𝒰`.
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-type-families.lagda.md:106]: this is an application of type duality. I'll add it to the explanation

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-type-families.lagda.md:106]: also there's a typo `decidabe`

File: src/foundation-core/decidable-propositions.lagda.md [hunk 12]
```diff
@@ -251,38 +256,71 @@ type-neg-Decidable-Prop :
...
-  {l : Level} (A : UU l) →
-  is-decidable (type-trunc-Prop A) → is-merely-decidable A
-is-merely-decidable-is-decidable-trunc-Prop A (inl x) =
-  apply-universal-property-trunc-Prop x
-    ( is-merely-decidable-Prop A)
-    ( unit-trunc-Prop ∘ inl)
-is-merely-decidable-is-decidable-trunc-Prop A (inr f) =
-  unit-trunc-Prop (inr (f ∘ unit-trunc-Prop))
+
+  is-decidable-prop-function-type' :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/decidable-propositions.lagda.md:266]: with decidable types there of course is relevant computational content: you may produce an element of your  proof relevant type. Decidable propositions, on the other hand, not so much.

File: src/foundation-core/decidable-propositions.lagda.md [hunk 13]
```diff
@@ -251,38 +256,71 @@ type-neg-Decidable-Prop :
...
+    ( rec-coproduct
+      ( λ p → is-prop-function-type (is-prop-type-is-decidable-prop (K p)))
+      ( λ np → is-prop-is-contr (universal-property-empty-is-empty P np Q))
+      ( H)) ,
+    ( is-decidable-function-type' H (is-decidable-type-is-decidable-prop ∘ K))
+
+  is-decidable-prop-function-type :
+    is-decidable P → is-decidable-prop Q → is-decidable-prop (P → Q)
+  is-decidable-prop-function-type H K =
+    ( is-prop-function-type (is-prop-type-is-decidable-prop K)) ,
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation-core/decidable-propositions.lagda.md:278]: I went with this proof because it is different, but either is fine. If you want I can change it.

File: src/foundation/cantors-theorem.lagda.md [hunk 14]
```diff
@@ -101,21 +101,24 @@ module _
...
-        ( f x x)
-        ( iff-eq (ap prop-Decidable-Prop (htpy-eq α x)))
+  not-in-image-map-theorem-decidable-Cantor :
+    ¬ (fiber f map-theorem-decidable-Cantor)
+  not-in-image-map-theorem-decidable-Cantor (x , α) =
+    no-fixed-points-neg-Decidable-Prop
+      ( f x x)
+      ( iff-eq (ap prop-Decidable-Prop (htpy-eq α x)))
+
+  theorem-double-negation-dense-decidable-Cantor :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/cantors-theorem.lagda.md:111]: How about adding them below an "alternative statements" main section? I agree the formulation with surjections and powersets is the main phrasing of Cantor's theorem

File: src/foundation/inequality-booleans.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/foundation/inequality-booleans.lagda.md:35]: oo shouldn't this give an error?

File: src/foundation/double-negation-images.lagda.md [hunk 15]
```diff
@@ -0,0 +1,322 @@
...
+              is-double-negation-dense-unit-double-negation-im f
+                ( pr1 ip)
+                ( λ ηq →
+                  np
+                  ( pr1 ηq ,
+                    ap (inclusion-double-negation-im f) (pr2 ηq) ∙ pr2 ip))))) ,
+      ( refl))
+
+  double-negation-eliminating-map-inclusion-double-negation-im :
+    double-negation-im f →¬¬ X
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/double-negation-images.lagda.md:187]: Yeah, you might be right. I could propose `¬¬→`, but maybe it is just better to use their textual name?

File: src/foundation/inequality-booleans.lagda.md (hunk 4 above)
Comment (fredrik-bakke) [reply src/foundation/inequality-booleans.lagda.md:177]: It is one direction of the universal property of `or`, so something like `is-lower-bound-or-bool` should work

Comment (fredrik-bakke) [reply src/foundation/inequality-booleans.lagda.md:177]: sorry, upper bound*

File: src/foundation/cantors-theorem.lagda.md [hunk 16]
```diff
@@ -109,13 +116,17 @@ module _
...
+      ¬ (is-double-negation-dense-map f)
+    theorem-double-negation-dense-decidable-Cantor H =
+      H map-theorem-decidable-Cantor not-in-image-map-theorem-decidable-Cantor
+
+    theorem-decidable-Cantor :
+      ¬ (is-surjective f)
+    theorem-decidable-Cantor =
+      map-neg
+        is-double-negation-dense-map-is-surjective
+        theorem-double-negation-dense-decidable-Cantor
```
Comment (VojtechStep) [inline src/foundation/cantors-theorem.lagda.md]:
```suggestion
      map-neg
        ( is-double-negation-dense-map-is-surjective)
        ( theorem-double-negation-dense-decidable-Cantor)
```

and similar parenthetization issues later in this file

File: src/foundation/decidable-type-families.lagda.md [hunk 17]
```diff
@@ -0,0 +1,166 @@
...
+
+### The negation of a decidable family is decidable
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} (P : decidable-family l2 A)
+  where
+
+  is-decidable-neg-decidable-family :
+    is-decidable-family (¬_ ∘ family-decidable-family P)
```
Comment (VojtechStep) [inline src/foundation/decidable-type-families.lagda.md]: I think this would be more readable with the composition spelled-out

File: src/foundation/decidable-type-families.lagda.md [hunk 18]
```diff
@@ -0,0 +1,166 @@
...
+  is-decidable-neg-decidable-family =
+    is-decidable-neg ∘ is-decidable-decidable-family P
+
+  neg-decidable-family : decidable-family l2 A
+  neg-decidable-family =
+    ( ¬_ ∘ family-decidable-family P , is-decidable-neg-decidable-family)
```
Comment (VojtechStep) [inline src/foundation/decidable-type-families.lagda.md]: Same here

File: src/foundation/decidable-type-families.lagda.md [hunk 19]
```diff
@@ -0,0 +1,166 @@
...
+```
+
+### Composition of decidable families
+
+Given a decidable family of types with double negation dense equality
+`P : A → 𝒰` and a decidable type family `Q : (x : A) → P x → 𝒰` then we may
+_compose_ `Q` after `P` and obtain a decidable type family `Q ∘ P : A → 𝒰`.
```
Comment (VojtechStep) [inline src/foundation/decidable-type-families.lagda.md]: It would be nice to spell out the fibers of the composition, because it's not immediately clear that you're supposed to form sigma types

File: src/foundation/decidable-type-families.lagda.md [hunk 20]
```diff
@@ -0,0 +1,166 @@
...
+
+```agda
+module _
+  {l1 l2 l3 : Level} {A : UU l1}
+  where
+
+  is-decidable-comp-decidable-family-decidable-subtype' :
```
Comment (VojtechStep) [inline src/foundation/decidable-type-families.lagda.md]: I don't think this and the following definition are related to subtypes specifically?

File: src/foundation/decidable-type-families.lagda.md [hunk 21]
```diff
@@ -0,0 +1,166 @@
...
+      ( decidable-family-decidable-subtype P)
+      ( Q)
+      ( λ x p q →
+        intro-double-negation
+          ( eq-is-prop (is-prop-is-in-decidable-subtype P x)))
+```
+
+### Decidable families on the subuniverse of propositions
+
+> TODO
```
Comment (VojtechStep) [inline src/foundation/decidable-type-families.lagda.md]: Could you spell out a bit more what exactly you expect to be here?

File: src/foundation/inequality-booleans.lagda.md [hunk 22]
```diff
@@ -0,0 +1,226 @@
...
+bool-Poset : Poset lzero lzero
+bool-Poset = (bool-Preorder , (λ x y → antisymmetric-leq-bool {x} {y}))
+
+bool-Total-Order : Total-Order lzero lzero
+bool-Total-Order = (bool-Poset , is-total-leq-bool)
+
+bool-Decidable-Total-Order : Decidable-Total-Order lzero lzero
+bool-Decidable-Total-Order =
+  ( bool-Poset ,
+    ( is-total-leq-bool) ,
```
Comment (VojtechStep) [inline src/foundation/inequality-booleans.lagda.md]:
```suggestion
    is-total-leq-bool ,
```

This is the most consistent with this file's style, but I think it's still inconsistent with other files in this PR.

File: src/foundation/irrefutable-propositions.lagda.md
Comment (VojtechStep) [inline src/foundation/irrefutable-propositions.lagda.md:1]: I'd expect irrefutable types and irrefutable propositions to live in the same namespace, or types to live in foundation and props to live in logic; what's the rationale here?

File: src/foundation/irrefutable-propositions.lagda.md [hunk 23]
```diff
@@ -9,28 +9,24 @@ module foundation.irrefutable-propositions where
...
 ```
 
 </details>
 
 ## Idea
 
 The [subuniverse](foundation.subuniverses.md) of
-{{#concept "irrefutable propositions" Agda=Irrefutable-Prop}} consists of
+{{#concept "irrefutable propositions" Agda=Irrefutable-Prop}}, or **double
+negation dense propositions**, consists of
```
Comment (VojtechStep) [inline src/foundation/irrefutable-propositions.lagda.md]: "Double negation dense propositions" should be a concept, since you're referring to it elsewhere

File: src/foundation/iterating-functions.lagda.md [hunk 24]
```diff
@@ -2,6 +2,8 @@
 
 ```agda
 module foundation.iterating-functions where
+
+open import foundation-core.iterating-functions public
```
Comment (VojtechStep) [inline src/foundation/iterating-functions.lagda.md:6]: From browsing the files, it looks like this split is required because of `logic.propositionally-decidable-maps` (since it's the only file importing the foundation-core module), but what's the dependency cycle there? Propositionally decidable maps look almost like a leaf

File: src/foundation/mere-equality.lagda.md [hunk 25]
```diff
@@ -45,6 +51,13 @@ module _
   is-prop-mere-eq x y = is-prop-type-trunc-Prop
 ```
 
+### Types whose elements are merely equal
```
Comment (VojtechStep) [inline src/foundation/mere-equality.lagda.md]:
```suggestion
### Types whose elements are all merely equal
```

File: src/foundation/propositional-truncations.lagda.md [hunk 26]
```diff
@@ -246,7 +265,7 @@ module _
 
   abstract
     map-idempotent-trunc-Prop :
-      type-trunc-Prop (type-trunc-Prop A) → type-trunc-Prop A
+      ║ (║ A ║₋₁) ║₋₁ → ║ A ║₋₁
```
Comment (VojtechStep) [inline src/foundation/propositional-truncations.lagda.md:268]: If nested truncation needs to be written like this, then it should probably be mentioned in the note on notation

File: src/foundation/uniformly-decidable-type-families.lagda.md [hunk 27]
```diff
@@ -173,3 +186,76 @@ module _
...
+        ( is-uniformly-decidable-family-has-double-negation-dense-equality-base ∘
+          inl)
+        ( |a|)
+    is-uniformly-decidable-family-has-double-negation-dense-equality-base'
+      ( inr na) K =
+      is-uniformly-decidable-family-has-double-negation-dense-equality-base
+        ( inr na)
+```
+
+### A family of decidable propositions over a decidable base with mere equality is uniformly decidable
```
Comment (VojtechStep) [inline src/foundation/uniformly-decidable-type-families.lagda.md:235]: "base with mere equality"

File: src/logic/complements-decidable-subtypes.lagda.md [hunk 28]
```diff
@@ -98,3 +107,31 @@ module _
...
+        inv-right-unit-law-Σ-is-contr
+          ( λ x →
+            is-proof-irrelevant-is-prop
+              ( is-prop-is-decidable (is-prop-is-in-decidable-subtype P x))
+              ( is-decidable-decidable-subtype P x))
+    ≃ type-decidable-subtype P + type-complement-decidable-subtype P
+      by
+        left-distributive-Σ-coproduct A
+          ( is-in-decidable-subtype P)
+          ( is-in-complement-decidable-subtype P)
```
Comment (VojtechStep) [inline src/logic/complements-decidable-subtypes.lagda.md]:
```suggestion
      A
      ≃ Σ A (λ x → is-decidable (is-in-decidable-subtype P x))
        by
        inv-right-unit-law-Σ-is-contr
          ( λ x →
            is-proof-irrelevant-is-prop
              ( is-prop-is-decidable (is-prop-is-in-decidable-subtype P x))
              ( is-decidable-decidable-subtype P x))
      ≃ type-decidable-subtype P + type-complement-decidable-subtype P
        by
        left-distributive-Σ-coproduct A
          ( is-in-decidable-subtype P)
          ( is-in-complement-decidable-subtype P)
```

This conforms to the codestyle guide.

File: src/logic/dirk-gentlys-principle.lagda.md [hunk 29]
```diff
@@ -0,0 +1,74 @@
...
+[De Morgan's law](logic.de-morgans-law.md), Section 8.5 {{#cite Diener18}}.
+
+> The name is based on the guiding principle of the protagonist of Douglas
+> Adam’s novel Dirk Gently’s Holistic Detective Agency who believes in the
+> “fundamental interconnectedness of all things.” {{#cite Diener18}}
+
+## Statement
+
+```agda
+instance-prop-Dirk-Gently's-Principle :
```
Comment (VojtechStep) [inline src/logic/dirk-gentlys-principle.lagda.md]: From what I found, we don't use the possessive `'s` in Agda identifiers, e.g. we have `structure-Hatcher-Acyclic-Type` for Hatcher's acyclic type, or `double-negation-Peirces-law` for irrefutability of Peirce's law.
Personally I prefer not using `'s`.

File: src/logic/dirk-gentlys-principle.lagda.md [hunk 30]
```diff
@@ -0,0 +1,74 @@
...
+Dirk-Gently's-Principle =
+  {l1 l2 : Level} → Dirk-Gently's-Principle-Level l1 l2
+```
+
+## Properties
+
+### The law of excluded middle implies Dirk Gently's principle
+
+**Proof.** Assuming the law of excluded middle, then every proposition is either
+true or false, so since false ≤ true, we are done.
```
Comment (VojtechStep) [inline src/logic/dirk-gentlys-principle.lagda.md]: I feel like parsing this line of thought is actually more difficult than coming up with a proof on the spot

File: src/logic/irrefutable-types.lagda.md [hunk 31]
```diff
@@ -0,0 +1,167 @@
...
+open import logic.double-negation-elimination
+```
+
+</details>
+
+## Idea
+
+The [subuniverse](foundation.subuniverses.md) of
+{{#concept "irrefutable types" Agda=Irrefutable-Type}}, or **double negation
+dense types**, consists of types `X` for which the
```
Comment (VojtechStep) [inline src/logic/irrefutable-types.lagda.md]: "double negation dense types" should be a concept

File: src/logic/double-negation-dense-maps.lagda.md [hunk 32]
```diff
@@ -0,0 +1,516 @@
...
+```
+
+</details>
+
+## Idea
+
+A map `f : A → B` is
+{{#concept "double negation dense" Agda=is-double-negation-dense-map}}, if all
+of its [fibers](foundation-core.fibers-of-maps.md) are
+[irrefutable](foundation.irrefutable-propositions.md). I.e., for every `y : B`,
```
Comment (VojtechStep) [inline src/logic/double-negation-dense-maps.lagda.md]: You're linking to `foundation.irrefutable-propositions`, and defining the predicate in terms of `double-negation-type-Prop`. Wouldn't it be better to link to irrefutable types and then use `is-irrefutable-prop-Type` from that module, to have the prose and formalization synced?

File: src/logic/double-negation-dense-maps.lagda.md [hunk 33]
```diff
@@ -0,0 +1,516 @@
...
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} (f : A → B) →
+  is-prop (is-double-negation-dense-map f)
+is-prop-is-double-negation-dense-map f =
+  is-prop-type-Prop (is-double-negation-dense-map-Prop f)
+```
+
+### The type of double negation dense maps
+
+```agda
+infix 5 _↠¬¬_
```
Comment (VojtechStep) [inline src/logic/double-negation-dense-maps.lagda.md:94]: I think it would be more in line with the "infix operators are mostly notation which shouldn't appear in identifiers" guideline if the primary definition was `double-negation-dense-map`, and then the infix symbol was defined as that. That's the way it's done for e.g. existential quantification and equivalences

File: src/logic/double-negation-dense-maps.lagda.md [hunk 34]
```diff
@@ -0,0 +1,516 @@
...
+open import logic.double-negation-stable-embeddings
+open import logic.irrefutable-types
+```
+
+</details>
+
+## Idea
+
+A map `f : A → B` is
+{{#concept "double negation dense" Agda=is-double-negation-dense-map}}, if all
```
Comment (VojtechStep) [inline src/logic/double-negation-dense-maps.lagda.md]: Is this "dense" the same as in "j-dense propositions" from Modalities in HoTT? I spent some time trying to connect the two, but couldn't make it work. If we follow the usual naming where "a map is X if all fibers are X", then it would mean that `is-dense X := ◯ X`, which doesn't look right. If anything, I'd expect this concept to be called "irrefutable maps".
In any case I think it deserves a note, since we already have definitions for double negation stable types and separated types, which follow the established nomenclature (I'm not particularly knowledgeable in this field though, maybe it's not the case that "stable", "dense", "connected" and "separated" have the same level of ubiquity).

File: src/foundation/irrefutable-equality.lagda.md [hunk 35]
```diff
@@ -0,0 +1,162 @@
...
+  is-prop-irrefutable-eq x y = is-prop-double-negation
+
+  irrefutable-eq-Prop : A → A → Prop l
+  irrefutable-eq-Prop x y = (irrefutable-eq x y , is-prop-irrefutable-eq x y)
+```
+
+### Types with double negation dense equality
+
+```agda
+has-double-negation-dense-equality : {l : Level} → UU l → UU l
```
Comment (VojtechStep) [inline src/foundation/irrefutable-equality.lagda.md]: I comment on this later in `double-negation-dense-maps`, but I'm really unsure where this "dense" adjective comes from. It doesn't seem to be the same "dense" as in the context of modalities (at least to me)

File: src/logic/double-negation-dense-maps.lagda.md [hunk 36]
```diff
@@ -0,0 +1,516 @@
...
+
+  is-double-negation-dense-map-double-negation-dense-map :
+    is-double-negation-dense-map map-double-negation-dense-map
+  is-double-negation-dense-map-double-negation-dense-map = pr2 f
+```
+
+### The type of all double negation dense maps out of a type
+
+```agda
+Double-Negation-Dense-Map :
```
Comment (VojtechStep) [inline src/logic/double-negation-dense-maps.lagda.md:113]: Why does the default notion bundle the codomain? I don't see references to this definition outside of this file.

File: src/logic/double-negation-dense-maps.lagda.md [hunk 37]
```diff
@@ -0,0 +1,516 @@
...
+  {l1 : Level} (l2 : Level) → UU l1 → UU (l1 ⊔ lsuc l2)
+Double-Negation-Dense-Map l2 A = Σ (UU l2) (A ↠¬¬_)
+
+module _
+  {l1 l2 : Level} {A : UU l1} (f : Double-Negation-Dense-Map l2 A)
+  where
+
+  type-Double-Negation-Dense-Map : UU l2
```
Comment (VojtechStep) [inline src/logic/double-negation-dense-maps.lagda.md:121]: I don't understand why the codomain has the special status of "the underlying type"

File: src/logic/double-negation-dense-maps.lagda.md [hunk 38]
```diff
@@ -0,0 +1,516 @@
...
+    is-double-negation-dense-map g →
+    is-double-negation-dense-map (map-product f g)
+  is-double-negation-dense-map-product {f} {g} F G (c , d) =
+    map-double-negation
+      ( map-inv-compute-fiber-map-product f g (c , d))
+      ( is-irrefutable-product (F c) (G d))
+
+  double-negation-dense-map-product :
+    (A ↠¬¬ C) → (B ↠¬¬ D) → ((A × B) ↠¬¬ (C × D))
+  double-negation-dense-map-product f g =
```
Comment (VojtechStep) [inline src/logic/double-negation-dense-maps.lagda.md]: I think this would be more readable with coprojections

File: src/logic/double-negation-dense-maps.lagda.md [hunk 39]
```diff
@@ -0,0 +1,516 @@
...
+  is-equiv-htpy-eq-double-negation-dense-map =
+    fundamental-theorem-id
+      is-torsorial-htpy-double-negation-dense-map
+      htpy-eq-double-negation-dense-map
+
+  extensionality-double-negation-dense-map :
+    (g : A ↠¬¬ B) → (f ＝ g) ≃ htpy-double-negation-dense-map g
+  extensionality-double-negation-dense-map g =
+    ( htpy-eq-double-negation-dense-map g ,
+    is-equiv-htpy-eq-double-negation-dense-map g)
```
Comment (VojtechStep) [inline src/logic/double-negation-dense-maps.lagda.md]:
```suggestion
      is-equiv-htpy-eq-double-negation-dense-map g)
```

I think?

File: src/logic/double-negation-dense-subtypes.lagda.md [hunk 40]
```diff
@@ -0,0 +1,143 @@
...
+
+open import logic.double-negation-dense-maps
+```
+
+</details>
+
+## Idea
+
+A
+{{#concept "double negationdense" Disambiguation="subtype" Agda=is-double-negation-dense-subtype Agda=double-negation-dense-subtype}}
```
Comment (VojtechStep) [inline src/logic/double-negation-dense-subtypes.lagda.md]:
```suggestion
{{#concept "double negation dense" Disambiguation="subtype" Agda=is-double-negation-dense-subtype Agda=double-negation-dense-subtype}}
```

File: src/logic/double-negation-dense-subtypes.lagda.md [hunk 41]
```diff
@@ -0,0 +1,143 @@
...
+  is-double-negation-dense-inclusion-is-double-negation-dense-subtype H x =
+    map-double-negation (λ y → ((x , y) , refl)) (H x)
+
+  double-negation-dense-inclusion-is-double-negation-dense-subtype :
+    is-double-negation-dense-subtype P → type-subtype P ↠¬¬ A
+  double-negation-dense-inclusion-is-double-negation-dense-subtype H =
+    ( inclusion-subtype P ,
+      is-double-negation-dense-inclusion-is-double-negation-dense-subtype H)
+
+  is-dense-is-double-negation-dense-inclusion-subtype :
```
Comment (VojtechStep) [inline src/logic/double-negation-dense-subtypes.lagda.md]: I'm not necessarily opposed to this name, but it's not consistent with the rest of the names in this section

File: src/logic/double-negation-elimination.lagda.md [hunk 42]
```diff
@@ -171,24 +172,97 @@ double-negation-elim-neg :
 double-negation-elim-neg A f p = f (ev p)
 ```
 
+### Double negation elimination for dependent sums of types with double negation elimination over a double negation stable proposition
```
Comment (VojtechStep) [inline src/logic/double-negation-elimination.lagda.md:176]: The title speaks about "double negation stable propositions", but the definitions are named and implemented in terms of double negation elimination instead.

File: src/logic/markovian-types.lagda.md [hunk 43]
```diff
@@ -91,6 +82,10 @@ module _
 
 > This remains to be formalized.
 
+### Types with decidability search are markovian
```
Comment (VojtechStep) [inline src/logic/markovian-types.lagda.md]:
```suggestion
### Types with decidability search are Markovian
```
But also I don't think we have anything about searches formalized, and I'm not sure what a "decidability search" is. Could you elaborate?

File: src/logic/propositional-double-negation-elimination.lagda.md [hunk 44]
```diff
@@ -0,0 +1,269 @@
...
+```
+
+### If the negation of a type with double negation elimination is decidable, then the type is merely decidable
+
+```agda
+module _
+  {l1 : Level} {A : UU l1}
+  where
+
+  is-inhabited-or-empty-is-decidable-neg-has-prop-double-negation-elim :
```
Comment (VojtechStep) [inline src/logic/propositional-double-negation-elimination.lagda.md:137]: The header says "merely decidable", but the formalization uses `is-inhabited-or-empty`

File: src/logic/propositional-double-negation-elimination.lagda.md [hunk 45]
```diff
@@ -0,0 +1,269 @@
...
+    ( inl nx) =
+    inr nx
+  is-inhabited-or-empty-is-decidable-neg-has-prop-double-negation-elim f
+    ( inr nnx) =
+    inl (f nnx)
+```
+
+**Remark.** It is an established fact that both the property of satisfying
+double negation elimination, and the property of having decidable negation, are
+strictly weaker conditions than being decidable. Therefore, this result
```
Comment (VojtechStep) [inline src/logic/propositional-double-negation-elimination.lagda.md]: I don't understand how this proves independence. Also could you include a source for the "established fact"?

File: src/logic/propositional-double-negation-elimination.lagda.md [hunk 46]
```diff
@@ -0,0 +1,269 @@
...
+
+```agda
+has-prop-double-negation-elim-has-double-negation-elim :
+  {l : Level} {A : UU l} →
+  has-double-negation-elim A →
+  has-prop-double-negation-elim A
+has-prop-double-negation-elim-has-double-negation-elim H = unit-trunc-Prop ∘ H
+```
+
+### Propositional double negation elimination for merely decidable types
```
Comment (VojtechStep) [inline src/logic/propositional-double-negation-elimination.lagda.md]: Heading says "merely decidable", formalization says `is-inhabited-or-empty`

File: src/logic/propositionally-decidable-maps.lagda.md [hunk 47]
```diff
@@ -0,0 +1,187 @@
...
+open import foundation-core.iterating-functions
+
+open import logic.propositionally-decidable-types
+```
+
+</details>
+
+## Idea
+
+A [map](foundation-core.function-types.md) is said to be
```
Comment (VojtechStep) [inline src/logic/propositionally-decidable-maps.lagda.md:35]: "Propositionally decidable maps/types" don't actually appear to ever be mentioned in prose outside of their files? You usually use "merely decidable", wouldn't it then be better to name the concept that? Especially since the corresponding definition is `is-inhabited-or-empty(-map)?`, not `is-propositionally-decidable(-map)?`

File: src/logic/propositionally-decidable-maps.lagda.md [hunk 48]
```diff
@@ -0,0 +1,187 @@
...
+  is-inhabited-or-empty-map-htpy H K b =
+    is-inhabited-or-empty-equiv
+      ( equiv-tot (λ a → equiv-concat (inv (H a)) b))
+      ( K b)
+```
+
+### Decidable maps are propositionally decidable
+
+```agda
+is-inhabited-or-empty-map-is-decidable-map :
```
Comment (VojtechStep) [inline src/logic/propositionally-decidable-maps.lagda.md:91]: Is this definition intentionally non-abstract, in contrast with the other functions?

File: src/logic/propositionally-double-negation-eliminating-maps.lagda.md [hunk 49]
```diff
@@ -0,0 +1,124 @@
...
+</details>
+
+## Idea
+
+A [map](foundation-core.function-types.md) is said to be
+{{#concept "propositionally double negation eliminating" Disambiguation="map of types" Agda=is-prop-double-negation-eliminating-map}}
+if its [fibers](foundation-core.fibers-of-maps.md) satisfy
+[propositional double negation elimination](logic.propositional-double-negation-elimination.md).
+I.e., for every `y : B`, if `fiber f y` is
+[irrefutable](foundation.irrefutable-propositions.md), then we have then the
```
Comment (VojtechStep) [inline src/logic/propositionally-double-negation-eliminating-maps.lagda.md]:
```suggestion
[irrefutable](foundation.irrefutable-propositions.md), then we have that the
```

File: src/foundation/decidable-maps.lagda.md [hunk 50]
```diff
@@ -279,3 +280,32 @@ module _
       ( retract-fiber-retract-map f g R x)
       ( G (map-codomain-inclusion-retract-map f g R x))
 ```
+
+### Decidable maps have Hilbert ε-operators
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-maps.lagda.md:285]: The link can be found right below, at `ε-operator-map f`, but the sentiment of your comment seems to rather be that the concept should be explained here, which I agree with, so I'll do that and in the process insert a link in the prose.

File: src/logic/propositionally-decidable-maps.lagda.md (hunk 47 above)
Comment (fredrik-bakke) [reply src/logic/propositionally-decidable-maps.lagda.md:35]: While I can't recall my rationale for this terminology anymore, notice that there are multiple concepts one might refer to as "merely decidable":
- `║ is-decidable-map f ║₋₁`
- `(x : A) → ║ is-decidable (fiber f x) ║₋₁`
- `(x : A) → is-inhabited-or-empty (fiber f x)`

while the last two are equivalent, the first one is a stronger assumption which is implied by choice. I don't know if perhaps I reserved "merely decidable map" for the first one, I'll have to think about it

File: src/foundation/decidable-maps.lagda.md (hunk 7 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/decidable-maps.lagda.md]: when it comes to decidability of types, I believe it is in general beneficial if they compute, so it is good to have the option to unfold them. For instance, one might want to try and normalize them so the proof assistant can tell you wheter a given case is true or false, even if one does not care about the particular witness of truth.

File: src/foundation/double-negation-images.lagda.md (hunk 15 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/double-negation-images.lagda.md:227]: what do you think?

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/double-negation-images.lagda.md:227]: I just find the name `double-negation-eliminating-map` to be a bit verbose, compared to some sort of special notation.

File: src/foundation/double-negation-images.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation/double-negation-images.lagda.md]: I expanded a bunch on the idea section, let me know if it is satisfactory now or if I included something new that is confusing.

File: src/foundation/decidable-maps.lagda.md (hunk 7 above)
[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/foundation/decidable-maps.lagda.md]: Sure, `opaque` works

File: src/foundation/double-negation-images.lagda.md (hunk 15 above)
[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/foundation/double-negation-images.lagda.md:227]: I'm on my phone so I can't easily check, but I don't remember seeing this type showing up so often that using the verbose name would be too annoying

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/double-negation-images.lagda.md:227]: Well, it's part of a larger notation scheme, and some of the others might actually see some fair use. There is also double negation dense embeddings and double negation covers. These are nice because you can use them at times to avoid prop truncs and by extension funext. Since you don't like this notation we should reconsider the notation for all of them.

For decidable maps we use the superscript d annotation. We could do something similar and use superscript dn for instance.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/double-negation-images.lagda.md:227]: Sorry, I should've thought of this before making my original comment

File: src/logic/dirk-gentlys-principle.lagda.md (hunk 30 above)
Comment (fredrik-bakke) [reply src/logic/dirk-gentlys-principle.lagda.md]: Do you want me to remove it or rephrase?

File: src/foundation/irrefutable-propositions.lagda.md
Comment (fredrik-bakke) [reply src/foundation/irrefutable-propositions.lagda.md:1]: These indiscrepancies are largely due to attempting to avoid moving files that were already there, in anticipation of a fix to our accrediting system. I'm on my phone right now so can't check this particular case, but that's my guess.

File: src/foundation/irrefutable-propositions.lagda.md (hunk 23 above)
Comment (fredrik-bakke) [reply src/foundation/irrefutable-propositions.lagda.md]: Even when it is only an alternative name for the same concept? My convention har been to only use #concept once per concept, and not per term.

File: src/foundation/propositional-truncations.lagda.md (hunk 26 above)
Comment (fredrik-bakke) [reply src/foundation/propositional-truncations.lagda.md:268]: It probably doesn't need to, actually. Do you want me to remove the parentheses?

Comment (fredrik-bakke) [reply src/foundation/propositional-truncations.lagda.md:268]: Oh, you mean as a convention? I'm not sure, I just happened to prefer it here...

File: src/logic/propositionally-decidable-maps.lagda.md (hunk 48 above)
Comment (fredrik-bakke) [reply src/logic/propositionally-decidable-maps.lagda.md:91]: Probably yes. Cf my other comment on unfolding

File: src/foundation/double-negation-images.lagda.md (hunk 1 above)
Comment (VojtechStep) [reply src/foundation/double-negation-images.lagda.md]: Much better, thank you 👌

File: src/foundation/double-negation-images.lagda.md (hunk 15 above)
[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/foundation/double-negation-images.lagda.md:227]: I wasn't aware of the superscript notations. In retrospect, I think the current operator is okay as-is, and the problem was rather that I was reviewing on Github. It should be clearer in an editor or on the website.

File: src/foundation/irrefutable-equality.lagda.md (hunk 35 above)
Comment (fredrik-bakke) [reply src/foundation/irrefutable-equality.lagda.md]: "Dense" here means "dense with respect to the double negation modality", precisely in the sense you are referring to.

File: src/foundation/irrefutable-propositions.lagda.md (hunk 23 above)
Comment (VojtechStep) [reply src/foundation/irrefutable-propositions.lagda.md]: I would use it for anything that you use as a defined concept in the prose.

File: src/logic/markovian-types.lagda.md (hunk 43 above)
Comment (fredrik-bakke) [reply src/logic/markovian-types.lagda.md]: It is in the next next PR

File: src/foundation/propositional-truncations.lagda.md (hunk 26 above)
Comment (VojtechStep) [reply src/foundation/propositional-truncations.lagda.md:268]: No, I thought Agda parsing required it to be written with parentheses, which could surprise others. If it's not necessary, then it's fine the way it is

File: src/logic/dirk-gentlys-principle.lagda.md (hunk 30 above)
Comment (VojtechStep) [reply src/logic/dirk-gentlys-principle.lagda.md]: Removing is fine by me. I think rewriting it would take about the same amount of effort as formalizing it 😃

File: src/foundation/double-negation-images.lagda.md (hunk 1 above)
Comment (VojtechStep) [reply src/foundation/double-negation-images.lagda.md]: Well, actually the link between "X-dense" and "X-stable" for X being double negation and X being a generic modality is still a little hazy to me, as I asked in https://github.com/UniMath/agda-unimath/pull/1387#discussion_r2126802598, so I can't really tell how this uniqueness condition follows

File: src/foundation/irrefutable-equality.lagda.md (hunk 35 above)
Comment (fredrik-bakke) [reply src/foundation/irrefutable-equality.lagda.md]: For proposition-valued modalities ○, "dense" reduces to `○ X` has an element, hence why this makes sense.

Comment (fredrik-bakke) [reply src/foundation/irrefutable-equality.lagda.md]: I added an explanation

File: src/logic/dirk-gentlys-principle.lagda.md (hunk 30 above)
Comment (fredrik-bakke) [reply src/logic/dirk-gentlys-principle.lagda.md]: Added

File: src/logic/double-negation-dense-maps.lagda.md (hunk 36 above)
Comment (fredrik-bakke) [reply src/logic/double-negation-dense-maps.lagda.md:113]: This mirrors the role of `Surjection` in `foundation.surjective-maps`.

File: src/logic/double-negation-dense-maps.lagda.md (hunk 37 above)
Comment (fredrik-bakke) [reply src/logic/double-negation-dense-maps.lagda.md:121]: it's what was done in the case of surjections.

File: src/logic/double-negation-elimination.lagda.md (hunk 42 above)
Comment (fredrik-bakke) [reply src/logic/double-negation-elimination.lagda.md:176]: double negation stability and double negation elimination coincides for propositions.

File: src/logic/propositionally-decidable-maps.lagda.md (hunk 47 above)
Comment (fredrik-bakke) [reply src/logic/propositionally-decidable-maps.lagda.md:35]: I should also note that `is-inhabited-or-empty (fiber f x)` computes more than `║ is-decidable (fiber f x) ║₋₁`, which is why the former is preferred in the formalizations.

File: src/logic/double-negation-dense-maps.lagda.md (hunk 34 above)
Comment (fredrik-bakke) [reply src/logic/double-negation-dense-maps.lagda.md]: Yes, this is "dense" in the same sense as "j-dense-propositions". I've added a note on terminology. You can find all of the terms "stable", "dense", "connected" and "separated" defined in _Modalities in Homotopy Type Theory_.

Comment (fredrik-bakke) [reply src/logic/double-negation-dense-maps.lagda.md]: Let me know if further elaboration is required.

File: src/foundation/double-negation-images.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation/double-negation-images.lagda.md]: A type Y is X-dense and X-stable if and only if Y is contractible.

Comment (fredrik-bakke) [reply src/foundation/double-negation-images.lagda.md]: Since X defines an orthogonal factorization system, any factorization through the X-dense image is unique. That is the definition of the factorization system being* _orthogonal_. On the other hand, "X-stable" can be understood as satisfying a uniqueness principle with respect to X, and "X-dense" can be understood as satisfying inhabitedness with respect to X.
Hope this clarifies your confusion.

File: src/logic/propositional-double-negation-elimination.lagda.md (hunk 45 above)
Comment (fredrik-bakke) [reply src/logic/propositional-double-negation-elimination.lagda.md]: The connection should be clear. Since both conditions are strictly weaker, then if they were dependent of eachother assuming both would also be strictly weaker, but here we demonstrate that if we assume both we get something that is not strictly weaker.

Comment (fredrik-bakke) [reply src/logic/propositional-double-negation-elimination.lagda.md]: Added a citation for this established fact.

File: src/foundation/iterating-functions.lagda.md (hunk 24 above)
Comment (fredrik-bakke) [reply src/foundation/iterating-functions.lagda.md:6]: This file was probably split preemptively so that multiplication can be compared to iterated addition and exponentiation can be compared to iterated multiplication and so on.

**Comment by fredrik-bakke** [comment]
@VojtechStep Thank you for the detailed review! I've tried to address all of your comments now. Let me know if further changes are required.

**Comment by VojtechStep** [comment]
I might not have the time today, but I should be able to look at all the updated PRs tomorrow

**Comment by VojtechStep** [comment]
Eh, sorry, it will have to wait one more day 😬

**Comment by fredrik-bakke** [comment]
No worries!

**Comment by fredrik-bakke** [comment]
FYI I won't have time to work on any additional review before monday next week at the earliest.

File: src/logic/propositional-double-negation-elimination.lagda.md (hunk 45 above)
Comment (VojtechStep) [reply src/logic/propositional-double-negation-elimination.lagda.md]: Okay that's clear, thanks

File: src/logic/double-negation-dense-maps.lagda.md (hunk 34 above)
Comment (VojtechStep) [reply src/logic/double-negation-dense-maps.lagda.md]: Thanks so much for those notes, it makes the connection very clear 💯

**Comment by VojtechStep** [comment]
No additional changes necessary, queued for merging 🚀
